US07576108B2
c: 4-Bromo-2-fluoro-1-methanesulfonyl-benzene
According to the procedure described for 54d the use of oxone® (1.48 g, 1.57 mmol) in 15 mL water and 4-bromo-2-fluoro-1-methylsulfanyl-benzene (347 mg, 1.57 mmol) in 30 mL methanol after 22 h reaction time gives crude title compound as a white solid. Purify by column chromatography, eluting with a gradient from 100:0 to 20:80 hexanes:ethyl acetate to obtain 4-bromo-2-fluoro-1-methanesulfonyl-benzene (220 mg) as a white solid. 1H-NMR (CDCl3) δ=3.21 (s, 3 H), 7.44-7.53 (m, 2H), 7.84 (mc, 1H).

reactant | oxone | OOS(=O)[O-].[K+]
reactant | 4-bromo-2-fluoro-1-methylsulfanyl-benzene | 1.57 mmol, 347 mg | BrC1=CC(=C(C=C1)SC)F | C7H6BrFS
reactant | water | 15 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | 4-bromo-2-fluoro-1-methanesulfonyl-benzene | 220 mg | BrC1=CC(=C(C=C1)S(=O)(=O)C)F | C7H6BrFO2S
